US07696223B2
a) 2-(4-Fluoro-phenyl)-4-hydroxy-1,3-diphenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 3-bromo-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (180 mg, 0.395 mmol), phenyltributlytin (149 μL, 0.454 mmol), and Pd(PPh3)2Cl2 (14 mg, 0.020 mmol) in DMF (2 mL) was stirred at 130° C. overnight. Then the mixture was diluted with EtOAc, washed with water and saturated NaCl aqueous solution respectively; the EtOAc phase was dried over anhydrous sodium sulfate, concentrated, the residue was purified by column and prep TLC to give a white solid, the desired title compound (59 mg). The title compound, ESI MS (m/z): 453 (M+H+).

reactant | 3-bromo-2-(4-fluoro-phenyl)-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 0.395 mmol, 180 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Br)C2=CC=C(C=C2)F)C2=CC=CC=C2)O | C22H16BrFN2O3
reactant | phenyltributlytin | 0.454 mmol, 149 μL | C1(=CC=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 0.020 mmol, 14 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-Fluoro-phenyl)-4-hydroxy-1,3-diphenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 59 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2C2=CC=CC=C2)C2=CC=C(C=C2)F)C2=CC=CC=C2)O | C28H21FN2O3
